US07495007B2
Preparation of racemic (2′S,3S,4′R)-6-chloro-4′-[5-chloro-2-(2-hydroxyethoxy)-phenyl]-2′-[5-fluoro-2-methyl-phenyl]spiro[3H-indole-3,3′-piperidine]-2,6′(1H)-dione
To a toluene solution (10 mL) of 1-(5-fluoro-2-methyl-phenyl)-3-trimethylsilyoxy-2-aza-1,3-butadiene (10.93 mmol) was added E/Z-3-[2-(2-tert-Butoxycarbonyloxy-ethoxy)-5-chloro-benzylidene]-6-chloro-2-oxo-2,3-dihydro-indole-1-carboxylic acid tert-butyl ester (1 g, 1.82 mmol). Then the reaction tube was placed into the cavity of a focused monomode microwave reactor and the contents of the flask were irradiated at 130° C. for 40 min. After the solution was cooled to room temperature, methanol was added, and then the mixture was concentrated. Then a mixture of trifluoroacetic acid and dichloromethane was added. The reaction mixture was stirred at room temperature for 10 min. The solution was concentrated and the residue was purified by Prep-HPLC to give title compound as a white solid (11 mg).

reactant | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
reactant | 1-(5-fluoro-2-methyl-phenyl)-3-trimethylsilyoxy-2-aza-1,3-butadiene | 10.93 mmol | FC=1C=CC(=C(C1)C=NC(=C)O[Si](C)(C)C)C | C13H18FNOSi
reactant | Z-3-[2-(2-tert-Butoxycarbonyloxy-ethoxy)-5-chloro-benzylidene]-6-chloro-2-oxo-2,3-dihydro-indole-1-carboxylic acid tert-butyl ester | 1.82 mmol, 1 g | C(C)(C)(C)OC(=O)N1C(\C(\C2=CC=C(C=C12)Cl)=C/C1=C(C=CC(=C1)Cl)OCCOC(=O)OC(C)(C)C)=O | C27H29Cl2NO7
solvent | methanol | CO | CH4O
product | racemic (2′S,3S,4′R)-6-chloro-4′-[5-chloro-2-(2-hydroxyethoxy)-phenyl]-2′-[5-fluoro-2-methyl-phenyl]spiro[3H-indole-3,3′-piperidine]-2,6′(1H)-dione | 11 mg | ClC1=CC=C2C(=C1)NC(C21C(NC(CC1C1=C(C=CC(=C1)Cl)OCCO)=O)C1=C(C=CC(=C1)F)C)=O | C27H23Cl2FN2O4
